US04072696
1.9 G. of 1-acetamido-4-hydroxy-2-nitrobenzene, and 10 g. anhydrous potassium carbonate were stirred at room temperature in 75 ml. acetone and treated with 5 ml. chloromethyl methyl ether over 10 minutes. After a further 10 minutes, the mixture was filtered, evaporated to dryness, and the product filtered through silica gel eluting with 1% methanol to afford 1-acetamido-4-methoxymethoxy-2-nitrobenzene.

reactant | 1-acetamido-4-hydroxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C8H8N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
solvent | acetone | CC(=O)C | C3H6O
product | 1-acetamido-4-methoxymethoxy-2-nitrobenzene | C(C)(=O)NC1=C(C=C(C=C1)OCOC)[N+](=O)[O-] | C10H12N2O5
